US05212248
1-(N-(5,5,7,7-tetramethyl-2-octenyl)-2-aminoethyl)piperazine
In a similar manner to Example 4, 10 g (4.95 mmol) of 1-chloro-5,5,7,7-tetramethyl-2-octene, 64 g (495 mmol) of 1-(2-aminoethyl)piperazine, 10 g (248 mmol) of magnesium oxide and 30 ml of THF are refluxed for 4 h. The mixture is diluted with 300 ml of diethyl ether and extracted once each with 5% strength aqueous NaOH and water, concentrated and dried at 40° C./1 mbar. Yield: quantitative.

reactant | 1-chloro-5,5,7,7-tetramethyl-2-octene | 4.95 mmol, 10 g | ClCC=CCC(CC(C)(C)C)(C)C | C12H23Cl
reactant | 1-(2-aminoethyl)piperazine | 495 mmol, 64 g | NCCN1CCNCC1 | C6H15N3
reactant | magnesium oxide | 248 mmol, 10 g | [O-2].[Mg+2]
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-(N-(5,5,7,7-tetramethyl-2-octenyl)-2-aminoethyl)piperazine | Yield: quantitative | CC(CC=CCNCCN1CCNCC1)(CC(C)(C)C)C | C18H37N3
